US05254571
Methyl 6-(2-propoxyphenyl)-1,2-dihydro-2-oxopyridine-3-carboxylate
A stirred mixture of 6-(2-propoxyphenyl)-1,2-dihydro-2-oxopyridine-3-carboxylic acid, (0.9 g) dry methanol (30 ml) and 3 drops of concentrated sulphuric acid was heated under reflux for ca 24 hours. The cooled mixture was evaporated to yield a pale yellow solid which was dissolved in chloroform, extracted with dilute aqueous potassium carbonate (2×10 ml), washed with water and brine, dried (magnesium sulphate) and evaporated to yield a yellow solid, 0.8 g, m.p. 126°-7° C. This was recrystallised from aqueous methanol (20 ml) to yield the pure title compound, 0.65 g, m.p. 126.5°-127.5° C.

reactant | 6-(2-propoxyphenyl)-1,2-dihydro-2-oxopyridine-3-carboxylic acid | 0.9 g | C(CC)OC1=C(C=CC=C1)C1=CC=C(C(N1)=O)C(=O)O | C15H15NO4
reactant | methanol | 30 ml | CO | CH4O
catalyst | sulphuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Methyl 6-(2-propoxyphenyl)-1,2-dihydro-2-oxopyridine-3-carboxylate | C(CC)OC1=C(C=CC=C1)C1=CC=C(C(N1)=O)C(=O)OC | C16H17NO4
